US08211919B2
To a solution of tert-butyl[(1S)-1-benzyl-2-(5-bromo-2,3-dihydro-1H-indol-1-yl)-2-oxoethyl]carbamate (1.55 g) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane (972 mg) in 1,4-dioxane (6 mL) were added potassium acetate (1.03 g) and dichlorobis(triphenylphosphine) palladium (244 mg) and the mixture was refluxed for 3 hours under nitrogen. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to afford tert-butyl{(1S)-1-benzyl-2-oxo-2-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-indol-1-yl]ethyl}carbamate (1.44 g) as a powder.

reactant | tert-butyl[(1S)-1-benzyl-2-(5-bromo-2,3-dihydro-1H-indol-1-yl)-2-oxoethyl]carbamate | 1.55 g | C(C)(C)(C)OC(N[C@H](C(=O)N1CCC2=CC(=CC=C12)Br)CC1=CC=CC=C1)=O | C22H25BrN2O3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi-1,3,2-dioxaborolane | 972 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.03 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | tert-butyl{(1S)-1-benzyl-2-oxo-2-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-indol-1-yl]ethyl}carbamate | 1.44 g | C(C)(C)(C)OC(N[C@H](C(N1CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O)CC1=CC=CC=C1)=O | C28H37BN2O5
